US05183820
5-(Cyclopentylmethyl)-6-fluoro- 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one
A stirred solution of 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (1.023 g) in dry DMF (50 ml) was treated with sodium hydride (73.2% dispersion in oil; 331 mg) and stirred under nitrogen at room temperature for 30 min. A solution of cyclopentylmethyl(methyl sulphonate (893 mg) in dry DMF (20 ml) was then added over 15 min and stirring was continued for 5 days. Water (20 ml) was added to the reaction mixture which was then concentrated in vacuo to give a solid. This was dissolved in ethyl acetate (300 ml) and methanol (1 ml), and the resulting solution was washed with saturated sodium chloride solution (3×100 ml) and then adsorbed onto silica. Purification by FCC eluting with System A (150:8:1) gave a solid (283 mg) which was recrystallised from ethyl acetate to give the title compound (237 mg) m.p. 175°-176°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 1.023 g | FC1=CC=CC=2C3=C(NC12)CCNC3=O | C11H9FN2O
reactant | sodium hydride | 331 mg | [H-].[Na+]
reactant | methyl sulphonate | 893 mg | CS(=O)(=O)[O-]
reactant | Water | 20 ml | O | H2O
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(Cyclopentylmethyl)-6-fluoro- 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 283 mg | C1(CCCC1)CN1C2=C(C=3C=CC=C(C13)F)C(NCC2)=O | C17H19FN2O
